US06303613B1
(d) 5-Amino3-chloro-4-cyanopyridine
Tin (II) chloride (1.42 g, 7.5 mmol) was added to a solution of 5-azido-3-chloro-4-cyanopyridine (0.9 g, 5 mmol) in ethanol (20 ml) and water (0.3 ml). Bubbling ensued. The mixture was stirred for 1 h. and then extracted twice with ethyl acetate. The extracts were washed twice with saturated aqueous sodium bicarbonate and dried over sodium sulphate. Evaporation of the solvent gave the product as an oil, which was purified by flash column chromatography on silica gel, eluting with dichloromethane/metahnol (10:1) to afford the product. MS (+CI) m/z 152 [M−H]+; 1H NMR (d6-DMSO) 8.15 (1H, s), 7.87 (1H, s), 6.88 (2H, s).

reactant | Tin (II) chloride | 7.5 mmol, 1.42 g | [Sn](Cl)Cl
reactant | 5-azido-3-chloro-4-cyanopyridine | 5 mmol, 0.9 g | N(=[N+]=[N-])C=1C(=C(C=NC1)Cl)C#N | C6H2ClN5
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 0.3 ml | O | H2O
product | 5-Amino3-chloro-4-cyanopyridine | NC=1C(=C(C=NC1)Cl)C#N | C6H4ClN3
